US06437147B1
N-(4,5,6,7-Tetrahydro-1H-benzimidazol-5-yl)-3-(4-trifluoromethoxyphenyl)acrylamide
To a solution of 3-(4-trifluoromethoxyphenyl)acrylic acid (186 mg, 1.0 mmol) in DMA (5 ml), HOAt (136 mg, 1.0 mmol) and DIC (126 mg, 1.0 mmol) were added and the mixture was stirred for 10 min. A mixture prepared from 5-amino-4,5,6,7-tetrahydro-1H-benzimidazole, dihydrochloride (210 mg, 1.0 mmol), DMA (5 ml) and triethylamine (202 mg, 2 mmol) was added to the activated ester and the mixture was stirred for 16 hours at ambient temperature. The volatiles were evaporated and the residue was stirred with a mixture of H2O (40 ml), 1 N hydrochloric acid (20 ml) and diethyl ether (25 ml). The phases were separated and the aqueous phase was washed with diethyl ether (2×25 ml) and then made alkaline to pH 10-11 with 4 N sodium hydroxide. The alkaline mixture was extracted with ethyl acetate (3×50 ml) and the combined organic extracts were dried (magnesium sulphate). The solvent was evaporated in vacuo to give a residue that was dissolved in 1 N hydrochloric acid (50 ml) and the acidic mixture was evaporated to dryness. The residue was re-evaporated with acetone (2×15 ml), stirred with acetone for 1 hour and the solid was isolated by filtration and dried. This afforded 141 mg (36%) of the title compound.

reactant | 3-(4-trifluoromethoxyphenyl)acrylic acid | 1.0 mmol, 186 mg | FC(OC1=CC=C(C=C1)C=CC(=O)O)(F)F | C10H7F3O3
reactant | HOAt | 1.0 mmol, 136 mg | C1=CC2=C(N=C1)N(N=N2)O | C5H4N4O
reactant | DIC | 1.0 mmol, 126 mg | CC(N=C=NC(C)C)C | C7H14N2
reactant | 5-amino-4,5,6,7-tetrahydro-1H-benzimidazole, dihydrochloride | 1.0 mmol, 210 mg | Cl.Cl.NC1CC2=C(NC=N2)CC1
reactant | triethylamine | 2 mmol, 202 mg | C(C)N(CC)CC | C6H15N
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
solvent | hydrochloric acid | 1 N, 50 ml | Cl | ClH
solvent | DMA | 5 ml | CC(=O)N(C)C | C4H9NO
product | N-(4,5,6,7-Tetrahydro-1H-benzimidazol-5-yl)-3-(4-trifluoromethoxyphenyl)acrylamide | N1C=NC2=C1CCC(C2)NC(C=CC2=CC=C(C=C2)OC(F)(F)F)=O | C17H16F3N3O2
